US09085576B2
A glass microwave reaction vessel was charged with (1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (0.11 g, 0.32 mmol), potassium acetate (0.095 g, 0.967 mmol), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (0.024 g, 0.032 mmol), and bis(pinacolato) diboron (0.098 g, 0.387 mmol). The vessel was evacuated and flushed with nitrogen twice. Next, degassed DMSO (1.5 ml) was added and the reaction mixture was heated in an oil bath at 80° C. After two hours, the reaction was poured into water and the mixture was extracted with EtOAc. The combined organic extracts were washed with water, saturated aqueous sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the intermediate (1R,5S,6R)-5-(difluoromethyl)-5-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine which was used without further purification. LC/MS (ESI−) m/z=383.1 (M+H).

reactant | (1R,5S,6R)-5-(5-bromo-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 0.32 mmol, 0.11 g | BrC=1C=CC(=C(C1)[C@]1(N=C(O[C@@H]2C[C@H]12)N)C(F)F)F | C12H10BrF3N2O
reactant | potassium acetate | 0.967 mmol, 0.095 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato) diboron | 0.387 mmol, 0.098 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | (1R,5S,6R)-5-(difluoromethyl)-5-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | FC([C@@]1(N=C(O[C@@H]2C[C@H]12)N)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)F | C18H22BF3N2O3
